* C:\Documents and Settings\Administrator\My Documents\Dsch2\Book on CMOS\invVde.sch
* DSCH 2.6i
* created 5/10/2003 9:09:29 PM
*
V1 1 0 DC 1.2
MP1 2 3 4 1 TP W=2u L=1u
MN1 5 3 4 0 TN W=1.0u L=1u
* Input clock "clk1" 3
VCLK1 3 0 DC 0 PULSE(0 1.2 10.00N 0.1N 0.1N 10.00N 21.00N )
* Output "Vout" 4
C1 4 0 0.1pF
R1 6 0 49
R2 6 0 1
C2 2 5 100pF
* Output "Vde" 6
L1 5 6 1nH
L2 1 2 1nH
*
* Mos models in 0.12µm
* Model 3 n-channel MOS
.MODEL  TN  NMOS
+ LEVEL=3            TPG=+1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.1        ETA=0.002
+ DELTA=0.0          UO=620             VMAX=100E3       VTO=0.35
+ TOX=3e-9           XJ=0.1U            LD=0.00U         NSUB=1E+18
+ NSS=0.2            NFS=7E11
+ CJ=4.091E-4        MJ=0.307           PB=1.0
+ CJSW=3.078E-10     MJSW=1.0E-2
+ CGSO=3.93E-10      CGDO=3.93E-10
* Model 3 p-channel MOS
.MODEL  TP  PMOS
+ LEVEL=3            TPG=-1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.01         ETA=0.001
+ DELTA=0.0          UO=250             VMAX=500E3         VTO=-0.35
+ TOX=3E-9          XJ=0.1U             LD=0.0U             NSUB=1E+18
+ NSS=0.0            NFS=7E11
+ CJ=6.852E-4        MJ=0.429           PB=1.0
+ CJSW=5.217E-10     MJSW=0.351
+ CGSO=7.29E-10      CGDO=7.29E-10
.TRAN 0.1N 50N
* Commands for WinSpice3
*#set nobreak
*#print  V(6)  > out.txt
*#run
*#plot  V(6) 
.OPTIONS DELMIN=0 RELTOL=1E-6
.END
